US07435837B2
Treatment of (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (3.00 g, 7.83 mmol) with 3-chlorophenylboronic acid (1.84 g, 11.74 mmol), dichlorobis(tri-o-tolylphosphine)-palladium(II) (0.308 g, 0.391 mmol), and potassium carbonate (2.70 g, 19.57 mmol) generally according to the procedure described for Intermediate 37 provided 2.35 g (72%) of (±)-[7-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate as a tan solid. mp 100-103° C.; Anal. calcd. for C22H19ClO4S: C, 63.69; H, 4.62. Found: C, 63.43; H, 4.69.

reactant | (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 7.83 mmol, 3.00 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2Br | C16H15BrO4S
reactant | 3-chlorophenylboronic acid | 11.74 mmol, 1.84 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | potassium carbonate | 19.57 mmol, 2.70 g | C([O-])([O-])=O.[K+].[K+]
catalyst | dichlorobis(tri-o-tolylphosphine)-palladium(II) | 0.391 mmol, 0.308 g | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | (±)-[7-(2-chlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 2.35 g, 72% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2)Cl | C22H19ClO4S
